US07173058B2
To a stirred suspension of 3-amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid (500 mg, 1.7 mmol) in methanol (10 ml) was added dropwise acetyl chloride (0.3 ml, 4.3 mmol) under nitrogen atmosphere at 0° C. After the addition, the mixture was stirred at 0° C. for 15 min and the ice bath was removed. The mixture was stirred at room temperature overnight. Solvent was removed in vacuo. The resulted solid was stirred with ether (30 ml) for 2 hours. The suspension was filtered to give 3-amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid methyl ester HCl salt as a white solid (540 mg, 90%). 1HNMR (DMSO-d6): δ 0.30–0.36 (m, 2H), 0.54–0.61 (m, 2H), 1.22–1.32 (m, 1H), 3.01–3.10 (m, 1H), 3.56 (s, 3H), 3.89 (d, J=7.5 Hz, 2H), 4.53–4.63 (m, 1H), 7.04 (d, J=7.5 Hz, 1H), 7.09 (t, JH-F=75 Hz, 1H), 7.19 (d, J=7.5 Hz, 1H), 7.39 (s, 1H), 8.55 (broad, 3H).

reactant | 3-amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid | 1.7 mmol, 500 mg | NC(CC(=O)O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C14H17F2NO4
reactant | acetyl chloride | 4.3 mmol, 0.3 ml | C(C)(=O)Cl | C2H3ClO
solvent | methanol | 10 ml | CO | CH4O
product | 3-amino-3-(3-cyclopropylmethoxy-4-difluoromethoxy-phenyl)-propionic acid methyl ester HCl salt | 540 mg, 90% | Cl.COC(CC(C1=CC(=C(C=C1)OC(F)F)OCC1CC1)N)=O | InChI=1S/C15H19F2NO4.ClH/c1-20-14(19)7-11(18)10-4-5-12(22-15(16)17)13(6-10)21-8-9-2-3-9;/h4-6,9,11,15H,2-3,7-8,18H2,1H3;1H
